Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:13].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.20337470063
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],1.46011942539
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],3.44208961496
[C:1]=[C:2]([O:3][C:4]#[C:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]#[C:5].[C:6]([H:7])([H:8])[H:9],3.83699473346
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],2.19717166078
[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],-7.66125758646
[H:13].[H:1][C:2]([O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.02376673203
[H:12].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.60225352333
[H:10].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.70761953097
[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.76780235921
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.18418418567
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:14]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.571802980069999
[H:13].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.67505414217
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]#[C:10][H:11].[H:6],2.11079569856
[C:1]#[C:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],1.55807294718
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-3.5871414307
[C:6]([H:7])[H:8].[H:1][O:2][C:3]([O:4][C:5])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-6.2311201277
[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11]>>[H:1][O:2][C:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11],-0.63592652618
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.31931288384
[C:1][C:2](=[O:3])[O:4][C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.04750367792
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-3.90973954593
[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7].[O:8][H:9]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][O:8][H:9],-6.387137493759999
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.0791632866299998
[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.79546860401
[C:3]([H:4])#[C:5][C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.93882311845
[C:2]#[C:3][C:4][O:5][H:6].[H:1]>>[H:1][C:2]#[C:3][C:4][O:5][H:6],-4.41042399504
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],4.59021009375
[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.6274726402
